US04167487
(Preparation of N-benzoyl-2-methylimidazole)
8.2 g (0.1 mol) of 2-methylimidazole (a pale yellow solid, 99% pure, m.p. 143°-144° C.) and 50 ml of tetrahydrofuran are placed in a flask. Over a 20 minute period, there is added gradually, with stirring, a solution of 7.0 g (0.05 mol) of benzoyl chloride in 25 ml of tetrahydrofuran. During this period the temperature of the contents of the flask, initially room temperature, rises owing to the exothermic reaction; the temperature of the contents of the flask is maintained at 40° C. by cooling. Stirring is continued, at 40° C., for 10 minutes. Then the mixture is refluxed (at 70° C.) for one hour. An oily layer separates. The mixture is cooled to solidify the oily material and the resulting precipitate is removed by filtration. After removal of tetrahydrofuran by evaporation under vacuum there remains 7.7 g of paste-like crude N-benzoyl 2-methylimidazole.

reactant | 2-methylimidazole | 0.1 mol, 8.2 g | CC=1NC=CN1 | C4H6N2
reactant | benzoyl chloride | 0.05 mol, 7.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-benzoyl-2-methylimidazole | C(C1=CC=CC=C1)(=O)N1C(=NC=C1)C | C11H10N2O
